US08241575B2
Preparation of Trimethylolpropane Triacrylate (TMPTA) RAFT Agent
Trimethylolpropane triacrylate was purified by passing it trough a pipette packed with hydroquinone inhibitor remover (Sigma-Aldrich cat. no. 311332) and then through a pipette filled with activated alumina. TMPTA (2.03 g, 6.8 mmol) and an excess of freshly prepared dithiobenzoic acid (6.97 g, 45.3 mmol) were dissolved in 40 mL of methylene chloride. The pink solution was allowed to reflux for 6 hours. The solution was cooled to room temperature and the solvent was evaporated off under vacuum. The dark red crude material was dry mounted on a silica column and eluted with a 10% ether:hexanes solution. A purple band and then a pink band were eluted. After all the pink compound was removed, the product began to elute as an orange band. The mobile phase was changed to 50% ether:hexanes and the product was collected. The solvent was removed under vacuum to give the product as a viscous red oil. This material was stored in the freezer at 0° C.

reactant | TMPTA | 6.8 mmol, 2.03 g | CCC(COC(=O)C=C)(COC(=O)C=C)COC(=O)C=C | C15H20O6
reactant | dithiobenzoic acid | 45.3 mmol, 6.97 g | C(C1=CC=CC=C1)(=S)S | C7H6S2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | Trimethylolpropane Triacrylate | C(C=C)(=O)O.C(C=C)(=O)O.C(C=C)(=O)O.C(O)C(CC)(CO)CO | InChI=1S/C6H14O3.3C3H4O2/c1-2-6(3-7,4-8)5-9;3*1-2-3(4)5/h7-9H,2-5H2,1H3;3*2H,1H2,(H,4,5)
